US05223516
a) N-[(Phenylmethoxy)carbonyl]-L-leucinamide
To a solution of N-[(phenylmethoxy)carbonyl]-L-leucine (3 g., 11.3 mmol.) in 60 mL of methylene chloride at -20° under argon was added N-methylmorpholine (1.24 mL, 11.3 mmol.) followed by isobutylchloroformate (1.47 mL, 11.3 mmol.). The resulting suspension was stirred at -20° C. for 15 minutes at which time a solution of ammonia/methanol (about 5.6M, 20 mL, 113 mmol.) was added. After 30 minutes at -20° C., the reaction was quenched with water and warmed to room temperature. The layers were separated and the aqueous layer was extracted with methylene chloride (2×). The combined organic extracts were dried (MgSO4) and evaporated to give 2.82 g. of the title A compound.

reactant | N-[(phenylmethoxy)carbonyl]-L-leucine | 11.3 mmol, 3 g | C1(=CC=CC=C1)COC(=O)N[C@@H](CC(C)C)C(=O)O | C14H19NO4
reactant | N-methylmorpholine | 11.3 mmol, 1.24 mL | CN1CCOCC1 | C5H11NO
reactant | isobutylchloroformate | 11.3 mmol, 1.47 mL | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | ammonia methanol | 113 mmol, about 5.6M, 20 mL | N.CO
solvent | methylene chloride | 60 mL | C(Cl)Cl | CH2Cl2
product | N-[(Phenylmethoxy)carbonyl]-L-leucinamide | C1(=CC=CC=C1)COC(=O)NC([C@@H](N)CC(C)C)=O | C14H20N2O3
